US07514441B2
2-Amino-1H-pyrrole-3-carboxylic acid ethyl ester (1):
Carbamimidoyl-acetic acid ethyl ester (3.357 g, 25.8 mmol) was dissolved in AcOEt (20 mL). Chloroacetaldehyde (50% solution in water, 1.8 mL, 28.7 mmol) was added rapidly at room temperature. The solution stirred for 2 minutes until a precipitant formed. The solution was then brought to 65° C. for 0.5 h. The reaction mixture was then cooled and flash chromatographed with AcOEt. Product containing fractions were concentrated to give the desired material as a green solid. 0.68 g obtained, 31% yield. 1H NMR (400 MHz, CDCl3) δ 1.32 (t, J=7.2 Hz, 3H), 4.24 (q, J=7.0 Hz, 2H), 5.08 (brs, 2H), 6.10-6.13 (m, 1H), 6.25 (t, J=3.12, 1 Hz), 8.60 (brs, 1H); MS Calcd.: 154. Found 155 (M+H).

reactant | Carbamimidoyl-acetic acid ethyl ester | 25.8 mmol, 3.357 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
reactant | Chloroacetaldehyde | 28.7 mmol, 1.8 mL | ClCC=O | C2H3ClO
solvent | AcOEt | 20 mL | CCOC(=O)C | C4H8O2
product | 2-Amino-1H-pyrrole-3-carboxylic acid ethyl ester | 31% yield | C(C)OC(=O)C1=C(NC=C1)N | C7H10N2O2
